US08193236B2
2-(6-Dimethylaminomethyl-imidazo[1,2-a]pyridin-3-yl)-acetamide
Lithium hydroxide monohydrate (55 mg, 1.31 mmol, 1.5 equiv) is added to a solution of (6-dimethylaminomethyl-imidazo[1,2-a]pyridin-3-yl)-acetic acid ethyl ester (240 mg, 0.87 mmol) in dioxane (10 ml) and water (10 ml). After 1 hour at room temperature, the reaction mixture is concentrated in vacuo. The residue is taken up in N,N-dimethylformamide (10 ml) and treated with trifluoroacetic acid (0.34 ml, 4.5 mmol, 4.5 equiv). Carbonyldiimidazole (167 mg, 0.98 mmol, 1.0 equiv) is added, and the mixture is stirred at room temperature for 1 hour. After removal of the solvent, concentrated aqueous ammonia (10 ml) is added to the activated acid. The mixture is stirred at room temperature for 30 minutes. Volatiles are removed in vacuo, and purification of the residue via flash chromatography (CH2Cl2/MeOH 7:3) affords the title compound (186 mg, 76%). 1H NMR (400 MHz, d4-MeOH): δ=8.31 (s, 1H), 7.55 (d, J=9.0 Hz, 1H), 7.49 (s, 1H), 7.35 (dd, J=9.0/1.5 Hz, 1H), 3.95 (s, 2H), 3.71 (s, 2H), 2.42 (s, 6H). MS (ES+): 233 (M+H)+.

reactant | Lithium hydroxide monohydrate | 1.31 mmol, 55 mg, 1.5 equiv | O.[OH-].[Li+]
reactant | (6-dimethylaminomethyl-imidazo[1,2-a]pyridin-3-yl)-acetic acid ethyl ester | 0.87 mmol, 240 mg | C(C)OC(CC1=CN=C2N1C=C(C=C2)CN(C)C)=O | C14H19N3O2
reactant | trifluoroacetic acid | 4.5 mmol, 0.34 ml, 4.5 equiv | FC(C(=O)O)(F)F | C2HF3O2
reactant | Carbonyldiimidazole | 0.98 mmol, 167 mg, 1.0 equiv | C(=O)(N1C=NC=C1)N1C=NC=C1 | C7H6N4O
solvent | dioxane | 10 ml | O1CCOCC1 | C4H8O2
solvent | water | 10 ml | O | H2O
product | 2-(6-Dimethylaminomethyl-imidazo[1,2-a]pyridin-3-yl)-acetamide | 186 mg, 76% | CN(C)CC=1C=CC=2N(C1)C(=CN2)CC(=O)N | C12H16N4O
